US04589905
A solution of 3.15 g of 5-chloro-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester and 1.1 g of sodium cyanide in 25 ml of dimethylformamide was heated at approximately 100° C. for four and one-half hours. The reaction mixture also contained approximately 3 g of molecular sieve to insure dryness. The reaction mixture was cooled and poured into approximately 300 ml of ice water. The precipitated solid was collected by filtration and recrystallized from ethanol (charcoal) to provide 1 g of 5-cyano-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester. MP=70°-72° C.

reactant | 5-chloro-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester | 3.15 g | ClC1=C(C=NN1C1=C(C=C(C=C1)Cl)C(F)(F)F)C(=O)OCC | C13H9Cl2F3N2O2
reactant | sodium cyanide | 1.1 g | [C-]#N.[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-cyano-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester | 1 g | C(#N)C1=C(C=NN1C1=C(C=C(C=C1)Cl)C(F)(F)F)C(=O)OCC | C14H9ClF3N3O2
